Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
___ Complaint:
dyspnea 
 
Major Surgical or Invasive Procedure:
Endotracheal intubation
R thigh muscle biopsy
R forearm skin biopsy
Tracheostomy tube placement
 
History of Present Illness:
___ female with CAD s/p CABG, accelerated phase CML s/p 
allo SCT ___ complicated by upper and lower GI GVHD ___ 
and liver GVHD ___ presenting from OSH electively intubated 
for hypoxic and hypercarbic failure in the setting of worsening 
respiratory status. She was recently on prednisone 8mg ___ and 
developed sore throat and cough ___. Steroid dose was 
increased to 20mg with quick taper and she was started on 
levofloxacin. Despite the levofloxacin and continuation of 
atovaquone for PCP prophylaxis, she had increasing dyspnea and 
presented to ___ on ___.  
.  
Initially, concern was for cardiac cause for her dyspnea (she 
has a history of CABG in ___. TTE showed normal EF. She 
underwent cardiac catheterization that showed clean coronaries. 
She desatted to ___ and was transferred to OSH ICU for bipap, 
which was not helpful. CXR showed RLL consolidation and she was 
started on vancomycin/zosyn/azithromycin ___ is day 5). 
She has not had fevers or leukocytosis.  
.  
Additionally, she was found to have b/l ___ DVTs (found when 
accessing during cardiac cath). CT was negative for PE. She was 
initially on heparin gtt but developed thrombocytopenia with 
plts dropping from >100k on admission to 58k. IVC filter was 
placed; she was started on bivalrudin and transitioned to 
fondaparinux prior to transfer. HIT antibody returned negative.  

.  
Throughout her hospital course, she was becoming progressively 
weaker. She had been ambulating independently on admission and 
progressed to not being able to lift her legs with elevated CK 
(790's on ___, ESR, CRP. She then dessated to ___ on high 
flow NC yesterday and was slow to recover her sats. Given her 
hypoxia and overall progressive weakness, she was electively 
intubated for concern for respiratory fatigue after discussion 
with oncology here ___, Dr ___. Bronchoscopy was 
performed after pt was intubated and revealed thick mucoid 
secretions. Cultures sent. On transfer, vent settings were peep 
5, fiO2 40%, TV 400.  
.  
CXR was not revealing for cause of acute respiratory failure, 
though she does have retrocardiac consolidation on CXR from 
___, potentially related to atelectasis. She had low IgG and 
received IVIG on ___. Prednisone had initially been continued 
at 20mg, but then uptitrated to prednisone 60mg (and converted 
to solumedrol 40mg IV BID) after d/w heme-onc here for concern 
of GVHD. In addition her cyclosporine was held as well. She has 
been hemodynamically stable, though UOP noted to be dropping to 
20cc/hr on ambulance ride over.  
.  
On the floor, she has no specific complaints. Denies CP.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, Denies shortness of breath. Denies 
chest pain, chest pressure, palpitations, or weakness. Denies 
nausea, vomiting. + diarrhea. Denies abdominal pain. Denies 
arthralgias or myalgias.  
 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: Asymptomatic abnormal CBC noted by PCP during routine  
visit  
- ___: Bone marrow biopsy showed myeloproliferative  
disorder, likely chronic myelogenous leukemia. Per patient  
report, began taking interferon three times weekly shortly  
after diagnosis.  
- ___: Started Gleevec 400 mg ___. At some point  
thereafter, her dose was increased to 600 mg ___  
- ___: Gleevec increased to 400 mg twice ___ with  
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be  

in late chronic phase CML. Stem cell transplant was  
recommended, but she did not wish to pursue this course.  
- ___: ___ held due to worsening anemia and  
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on  
Dasatinib   
- ___: First seen at ___. Bone marrow biopsy showed  
accelerated phase CML. began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by  
mucositis with biopsy of the esophagus suggesting upper GI GVHD  

which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper 
and  
lower GI tract in the setting of reducing immunosuppression  
.  
PMHx:  
- atherosclerotic coronary vascular disease  
- status post CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  
 
Social History:
___
Family History:
- father - died of MI, nil other health problems
- mother - had heart problems, DM
Four siblings
- 2 bothers had CABG
- 1 brother prostate cancer
- Her sister ___ is her donor and is well
 
Physical Exam:
Admission Physical Exam: 
General: Alert and answering questions yes/no with head nods, 
intubated, no acute distress  
HEENT: ET tube present, unable to assess OP  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTA b/l in anterior fields  
CV: Regular rate and rhythm, normal S1 + S2  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: R PICC in place, L dorsal forearm with scabbed areas over 
elbow that are purplish hue  
Neuro: ___ muscle strength in ___ b/l, 4+/5 muscle strength in UE 
b/l  
.
DISCHARGE EXAM:
HR 92 BP 165/85 O2 100% temp 98.3
vent settings: CPAP/PSV PEEP 5
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: cta b/l
CV:regular rate and rhythm, frequent early beats, normal S1 + 
S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley in place, good UOP  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, able to lift arms to 90 degree angle, unable to lift legs 
off chair but hip extensors ___ and deltoids ___ (improved)
SKIN: bilateral hands bandaged per derm, right thigh biopsy site 
with surrounding ecchymosis but no hematoma, no errythema or 
warmth

 
Pertinent Results:
Admission Labs:

___ 01:17PM BLOOD WBC-6.8 RBC-2.54*# Hgb-8.2*# Hct-23.6*# 
MCV-93 MCH-32.4* MCHC-34.9 RDW-14.9 Plt Ct-66*#
___ 01:17PM BLOOD Neuts-90* Bands-2 Lymphs-2* Monos-2 Eos-0 
Baso-0 ___ Metas-2* Myelos-1* Promyel-1*
___ 01:17PM BLOOD Hypochr-1+ Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Stipple-OCCASIONAL
___ 01:17PM BLOOD ___ PTT-29.1 ___
___ 01:17PM BLOOD ___ ___
___ 03:54AM BLOOD Ret Aut-1.5
___ 01:17PM BLOOD ALT-102* AST-126* LD(___)-474* 
CK(CPK)-276* AlkPhos-225* TotBili-0.8
___ 01:17PM BLOOD Albumin-2.6* Calcium-8.9 Phos-2.9# Mg-1.9
___ 03:54AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.0 Iron-160
___ 03:54AM BLOOD calTIBC-170* VitB12-818 Folate-6.5 
___ Ferritn-PND TRF-131*
___ 01:17PM BLOOD TSH-0.88
___ 04:52PM BLOOD Type-ART pO2-165* pCO2-37 pH-7.48* 
calTCO2-28 Base XS-4
___ 04:52PM BLOOD Lactate-1.3
.
DISCHARGE LABS:
___ 03:56AM BLOOD WBC-5.6 RBC-2.75* Hgb-9.4* Hct-27.2* 
MCV-99* MCH-34.1* MCHC-34.6 RDW-21.7* Plt ___
___ 03:56AM BLOOD ___ PTT-99.1* ___
___ 03:56AM BLOOD ACA IgG-PND ACA IgM-PND
___ 03:56AM BLOOD Glucose-121* UreaN-22* Creat-0.3* Na-137 
K-4.5 Cl-105 HCO3-26 AnGap-11
___ 04:45AM BLOOD CK(CPK)-103
___ 03:50AM BLOOD ALT-53* AST-42* LD(LDH)-439* AlkPhos-142* 
TotBili-0.7
___ 03:56AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.2
___ 03:56AM BLOOD ___
___ 09:20AM BLOOD Cyclspr-43*
.
Micro:
   Blood Culture, Routine (Final ___:    NO GROWTH. 
MRSA SCREEN (Final ___:    No MRSA isolated. 
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
  Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
___ 8:24 pm SPUTUM      Source: Endotracheal. 
   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 
   RESPIRATORY CULTURE (Final ___:    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 
   ACID FAST CULTURE (Final ___:    NO MYCOBACTERIA 
ISOLATED. 
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
___ 6:46 pm BRONCHIAL WASHINGS
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora. 
   LEGIONELLA CULTURE (Final ___: 
      NO LEGIONELLA ISOLATED. 
      PAECILOMYCES SPECIES.    RARE GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 
   ACID FAST CULTURE (Preliminary): 
SKIN biopsy pending at ___ of discharge
.
Imaging:

IMPRESSION: 
 CT ABD & PELVIS W/O CONTRAST Study Date of ___ 5:43 ___ 
1. No evidence of retroperitoneal hematoma. 
2. Left lower lobe consolidation with adjacent small left 
nonhemorrhagic 
pleural effusion. This finding is concerning for infection in 
the appropriate clinical setting. 
3. Increased attenuation of the liver, compatible with 
hemosiderosis, 
unchanged. 
4. Cholelithiasis without evidence of cholecystitis. 
5. Extensive calcified atherosclerotic disease of the aorta and 
its branches without associated aneurysmal changes. 
6. Right thigh lipoma is partially imaged. 
.
EMG:
IMPRESSION: 
Abnormal study. There is electrophysiologic evidence for a 
myopathy with 
denervating ("inflammatory") features, most severely affecting 
the lower 
extremities. The findings are not suggestive of an acquired 
demyelinating 
polyneuropathy, such as Guillain- ___ syndrome. 
.
ECHO ___: The left atrium is normal in size. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). A mid-cavitary gradient is identified. There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
Compared with the prior study (images reviewed) of ___, no 
change. 
.
CHEST CT: report pending at time of discharge
. 
PATHOLOGY:
Muscle biopsy, r4 rectus femoris muscle:
Inflammatory myopathy, see note.
Note: Section showed myofibers with prominent inflammatory 
infiltrate composed of foamy macrophages, lymphocytes, and 
plasma cells.  Degenerative and regenerative fibers are seen.  
In some areas, myofibers are replaced by adipose and connective 
tissue, consistent with a subacute clinical picture. CD3 labeled 
prominent T cell infiltrate with numerous CB8 positive cytotoxic 
and scattered CD4 positive helper cells, while CD20 labeled B 
lymphocytes are rare in perivascular zones. CD68 highlighted 
abundant macrophages, some involved in myophagocytosis. The 
findings would be consistent with GVH myositis in the clinical 
context of CML status post alloSCT and history of GI and liver 
GVH disease. GVH myositis is indistinguishable histologically 
from sporatic polymyositis. Further studies including 
biochemical panel will be reported as an addendum.
.
R forearm: pending at time of discharge

 
Brief Hospital Course:
___ female with CAD s/p CABG, accelerated phase CML s/p 
allo SCT ___ complicated by upper and lower GI GVHD ___ 
and liver GVHD ___ presenting from OSH electively intubated 
for hypoxic and hypercarbic failure in the setting of myopathy. 
.
# Hypercarbic hypoxic respiratory failure: Pt was initially 
electively intubated given diffuse myopathy affecting 
respiratory muscles. Pt was managed on endotracheal intubation 
for 11 days before being trached on ___. Her ___ NIF has 
remained (-14)-(-18). During trials on trach collar, she has 
maintained her oxygen saturation and respiratory rate, however 
her blood pressure elevates and she reports subjective feelings 
of dyspnea and fatigue. Goal now for weaning her from the vent 
is treatment of her diffuse myositis to improve respiratory 
failure in the long term with gentle weaning to trach collar.
.
# Motor weakness: Based on muscle biopsy, inflammation is 
consistent with GVHD.  Muscle biopsy shows impressive 
inflammation despite having been on steriods prior to biopsy. 
Muscle strength appeared to initially improve on steroids, 
though now has been stable x 1 week. Following muscle biopsy, 
she was started on cyclosporine 25mg IV BID and received 1 dose 
of IVIG. She has had minimal improvement in her strength and is 
aware that this will be a prolonged recovery process.
.
# Mold on BAL: Sparse growth seen on bronchial aspirate from 
___. Given clinical improvement and radiological improvement 
on CT scan ___, we do not feel that this is likely a pathogenic 
organism. We do recommend repeat CT chest in ___ weeks for 
continued monitoring. 
.
# depression: Ms ___ has started to appear overwhelmed and 
frustrated by her current condition and long term recovery that 
is necessary. We have deferred starting an SSRI but this should 
be reconsidered outside of an acute hospitalization.
.
# Pancytopenia: Developed in setting of starting cyclosporine. 
Her CBC has been stable and she has not required any recent 
transfusions. Threshold for transfusion would be platelets <10, 
hct <25
.
# bilateral hand bullae: First noticed on ___. Dermatology was 
consulted and felt that her purpura was due to trauma and her 
coagulopathy.  The bullae were probably the result of hemorrhage 
into thin skin. They were drained and per derm, continued with 
light pressure dressings to prevent re-accumulation.
.
# Hypertension: Pt has history of hypertension and had been 
managed at home on amlodipine 5mg, and metoprolol succinate 
300mg ___. These were initially held on presentation, but 
resumed as she improved clinically. She has been stable on 
amlodipine 5mg ___, metoprolol tartrate 100mg q6hr, and 
captopril 12.5mg TID. She has been noted to get hypertensive to 
170s when on trach collar. We would expect this to resolve as 
she becomes more comfortable on the trach collar and her 
strength improves. It would be possible to up titrate her 
captopril if she requires.
.
# DVT: Pt has bilateral DVT, however in setting of diffuse 
ecchymoses and hematomas, heparin drip was held. Pt had CTA at 
outside hospital to r/o PE and had an IVC filter placed.  She 
was placed on compression stockings to avoid further 
complications of thrombophlebitis.
.
# Elevated LFTs: LFT have been stably elevated during this 
hospitalization, likely secondary to her known GVHD.
.
# elevated PTT: Unclear etiology since patient has been off 
heparin drip for 1 week now. She is still getting heparin SQ TID 
and suspect that given decreased muscle mass, she may be 
supratheraputic from SQ heparin alone. Further work up is 
pending, including ___, anti-cardiolipin antibody, and 
anti-lupus antibody.
.
CHRONIC ISSUES:
.
# CML s/p allogeneic stem cell tx: Pt was continued on acyclovir 
and atovaquone for prophylaxis. She had been on budesonide, 
however this has been held recent as it cannot be given through 
her dobhoff. She has been started on cyclosporin and IVIG for 
diffuse myositis.
.
# CAD: s/p CABG in ___. Continued home medications. Repeat ECHO 
here showed no wall motion abnormalities. She also had cardiac 
catheterization at outside hospital for workup of initial 
presenting dyspnea which revealed clean coronary arteries.
.
TRANSITIONAL ISSUES:
Pt is full code.
.
She will require repeat IVIG either ___ or ___ per 
rheumatology recs.
.
She should have repeat CT chest in ___ weeks for follow up on 
interval change in L infiltrate.
.
We have decreased her heparin SQ to BID given persistently 
elevated PTT. This should be re-evaluated if remains elevated 
and further work-up would be warranted.
.
We have resumed home blood pressure medications. If necessary, 
her captopril could be up titrated.
.
Patient and her husband are aware that she will have a prolonged 
recovery period. She has expressed some thoughts of depression 
and would likely benefit from an SSRI.
.
Tube feds currently Beneprotein, 21 gm/day, Goal rate: 40 ml/hr, 
Residual Check: q4h Hold feeding for residual >= : 200 ml
.
Pt has not been getting her budesonide as it clogs her dobhoff. 
This should be discussed with hem/onc at her follow up visit.
 
Medications on Admission:
ACYCLOVIR - 400 mg Tablet - 1 Tablet(s) by mouth twice a day
AMLODIPINE - 5 mg Tablet - 1 Tablet(s) by mouth ___
ATOVAQUONE [MEPRON] - 750 mg/5 mL Suspension - 10 ml ___
BUDESONIDE [ENTOCORT EC] - 3 mg BID
CYCLOSPORINE MODIFIED [NEORAL] -  25mg BID
ERGOCALCIFEROL (VITAMIN D2) - 50,000 unit Capsule - 1 Capsule(s)
by mouth 1X/WEEK (TH)
LORAZEPAM - 0.5 mg-1mg ___ PRN
METOPROLOL SUCCINATE - 300 mg ___
OMEPRAZOLE - 20 mg ___
PREDNISONE TAPER 8mg ___
DOCUSATE SODIUM [COLACE] 100mg ___
MAGNESIUM OXIDE-MG AA CHELATE [MG-PLUS-PROTEIN] 133 mg ___
SENNOSIDES [SENNA] -  8.6 mg BID  

 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet ___ Q12H (every 12 
hours).  
2. atovaquone 750 mg/5 mL Suspension Sig: 1500 (1500) mg ___ 
___.  
3. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet ___ Q6H 
(every 6 hours).  
4. captopril 12.5 mg Tablet Sig: One (1) Tablet ___ TID (3 times 
a day).  
5. lidocaine HCl 2 % Solution Sig: Twenty (20) ML Mucous 
membrane TID (3 times a day) as needed for mouth discomfort.  
6. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs ___ QID (4 times a day) as needed for heart burn.  
7. amlodipine 5 mg Tablet Sig: One (1) Tablet ___.  

8. acetaminophen 650 mg/20.3 mL Solution Sig: Six Hundred Fifty 
(650) mg ___ Q6H (every 6 hours) as needed for pain, fever.  
9. trazodone 50 mg Tablet Sig: 0.5 Tablet ___ HS (at bedtime).  
10. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
11. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML ___ QID 
(4 times a day) as needed for thrush.  
12. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable ___ TID (3 times a day).  
13. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet ___ BID (2 times a day).  
14. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Four (4) Puff Inhalation Q4H (every 4 hours) as needed for 
wheeze.  
15. ipratropium bromide 17 mcg/Actuation HFA Aerosol Inhaler 
Sig: Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
PRN: wheeze.  
16. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
17. diazepam 2 mg Tablet Sig: One (1) Tablet ___ at bedtime as 
needed for insomnia for 1 doses.  
18. heparin (porcine) 5,000 unit/mL Cartridge Sig: 5000 (5000) 
units Injection BID (2 times a day).  
19. Lorazepam 0.5-1 mg IV Q6H:PRN anxiety 
20. methylprednisolone sodium succ 40 mg Recon Soln Sig: Thirty 
(30) mg Injection Q12H (every 12 hours).  
21. cyclosporine 250 mg/5 mL Solution Sig: ___ (25) mg 
Intravenous Q12H (every 12 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Graft versus host disease myositis affecting respiratory muscles

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for difficulty breathing and 
had a breathing tube placed to help. This was transitioned to a 
tracheostomy. You had a muscle biopsy done to determine what 
caused your weakness. It looks like your graft versus host 
disease caused damage to your muscle and affected your 
respiratory muscles. You were started on a new medicine called 
cyclosporin and got 1 dose of IVIG to treat the muscle weakness. 
You were also continued on steroids. There was some concern for 
a pneumonia, though this looks like it has resolved on your most 
recent CT scan. Your feeding tube was left in place for you to 
get adequate nutrition until your muscle strength improves.

We will send a complete list of your medications to the ___. 
 
Followup Instructions:
___